US05631401
5-(4-Ethoxycarbonylphenoxy)-2-furaldehyde
Using ethyl-4-hydroxybenzoate, the title compound was prepared by the method of Example 52A, except chromatography using 3:1 hexane-EtOAc was used for purification. 1H NMR (CDCl3) δ 9.45 (s, 1H), 8.10 (m, 2H), 7.25 (d, 1H), 7.19 (m, 2H), 5.75 (d, 1H), 4.40 (q, 2H), 1.41 (t, 3H). MS (DCl/NH3) m/e 261 (M+H)+, 278 (M+H+NH3)+.

reactant | ethyl-4-hydroxybenzoate | C(C)OC(C1=CC=C(C=C1)O)=O | C9H10O3
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
product | 5-(4-Ethoxycarbonylphenoxy)-2-furaldehyde | C(C)OC(=O)C1=CC=C(OC2=CC=C(O2)C=O)C=C1 | C14H12O5
